US08426411B2
To a mixture of (1S,2R,4S)-4-(cyclopropanesulfonamido)-2-ethylcyclopentanecarboxylic acid (Preparation #Z.1, 1.00 g, 3.83 mmol) in t-BuOH (19.1 mL) was added DPPA (0.826 mL, 3.83 mmol) and TEA (1.17 mL, 8.42 mmol). The reaction mixture was heated at about 70° C. for about 45 min. The reaction mixture was cooled to ambient temperature and concd under reduced pressure. The crude material was purified by silica gel chromatography eluting with a gradient of 0-10% MeOH in DCM. The material was dried under reduced pressure to give N-((1S,3R,4S)-3-ethyl-4-isocyanatocyclopentyl)cyclopropanesulfonamide with 30 mol % of t-BuOH as an excipient (0.97 g, 98%) as a colorless oil: LC/MS (Table 1, Method n) Rt=0.56 min; MS m/z 259 (M+H)+.

reactant | (1S,2R,4S)-4-(cyclopropanesulfonamido)-2-ethylcyclopentanecarboxylic acid | 3.83 mmol, 1.00 g | C1(CC1)S(=O)(=O)N[C@H]1C[C@H]([C@H](C1)C(=O)O)CC | C11H19NO4S
reactant | DPPA | 3.83 mmol, 0.826 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | t-BuOH | 19.1 mL | CC(C)(C)O | C4H10O
product | N-((1S,3R,4S)-3-ethyl-4-isocyanatocyclopentyl)cyclopropanesulfonamide | C(C)[C@@H]1C[C@@H](C[C@@H]1N=C=O)NS(=O)(=O)C1CC1 | C11H18N2O3S
